US06927221B2
8-(1-Ethylpropyl)-2,5-dimethyl-7,8-dihydro-6H-pyrazolo[1,5-a]pyrrolo[3,2-e]pyrimidine
A solution of 7-chloro-6-(2-chloroethyl)-2,5-dimethylpyrazolo[1,5-a]pyrimidine (4.0 g, 16 mmol), 3-aminopentane (40 mL) in acetonitryl (120 mL) was heated under reflux for nine hours. After overnight, the residue was purified by silica gel column chromatography (20% ethyl acetate/hexane), to give the title compound (3.7 g) as white crystals.

reactant | 7-chloro-6-(2-chloroethyl)-2,5-dimethylpyrazolo[1,5-a]pyrimidine | 16 mmol, 4.0 g | ClC1=C(C(=NC=2N1N=C(C2)C)C)CCCl | C10H11Cl2N3
reactant | 3-aminopentane | 40 mL | NC(CC)CC | C5H13N
product | 8-(1-Ethylpropyl)-2,5-dimethyl-7,8-dihydro-6H-pyrazolo[1,5-a]pyrrolo[3,2-e]pyrimidine | 3.7 g | C(C)C(CC)N1CCC=2C(=NC=3N(C21)N=C(C3)C)C | C15H22N4
